US07045545B1
(R)-N-tert-butoxycarbonyl 1-(5-trifluoromethylbenzofur-7-yl)-2-aminopropane
Beginning with 0.256 gm (0.97 mMol) 5-trifluoromethyl-7-bromobenzofuran and 0.142 gm (0.90 mMol) (R)-(−)-N-tert-butoxycarbon-yl-2-methylaziridine, 0.077 gm (23%) of the desired compound were prepared essentially as described in Example 10.

reactant | 5-trifluoromethyl-7-bromobenzofuran | 0.97 mMol, 0.256 gm | FC(C=1C=C(C2=C(C=CO2)C1)Br)(F)F | C9H4BrF3O
reactant | (R)-(−)-N-tert-butoxycarbon-yl-2-methylaziridine | 0.90 mMol, 0.142 gm | C(C)(C)(C)OC(=O)[N@]1C(C1)C | C8H15NO2
product | (R)-N-tert-butoxycarbonyl 1-(5-trifluoromethylbenzofur-7-yl)-2-aminopropane | 0.077 gm, 23% | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC(=CC=2C=COC21)C(F)(F)F)C | C17H20F3NO3
